* Z:\mnt\spice-netlists\LT1965.asc
V1 IN 0 3.3
R1 OUT N001 4.53K tol=1 pwr=0.1
R2 0 N001 4.12K
C1 OUT 0 10µ
C2 IN 0 10µ
XU1 IN IN 0 OUT N001 LT1965
Rload OUT 0 2.3
.tran 10m startup
* Note:\n  If the simulation model is not found please update with the "Sync Release" command from the "Tools" menu.\n  It remains the customer's responsibility to verify proper and reliable operation in the actual application.\n  Component substitution and printed circuit board layout may significantly affect circuit performance or reliability.\n  Contact your local sales representative for assistance. This circuit is distributed to customers only for use with LTC parts.\n  Copyright © 2008 Linear Technology Inc. All rights reserved.
* LT1965- 1.1A, Low Noise Low Dropout Linear Regulator\nInput: 3.3V       Output: 2.5V@1.1A
.lib LT1965.lib
.backanno
.end
